US07977477B2
135C. Synthesis of 4,5-diamino-2-ethoxy-benzoic Acid methyl ester
A mixture of 4,5-dinitro-2-ethoxy-benzoic acid methyl ester (320 mg) and 10% Pd/C (40 mg) in MeOH (8 mL) was stirred under an atmosphere of hydrogen gas for 4 h at r.t., filtered through a plug of Celite and reduced in vacuo to give the title compound (234 mg) as a black gum. 1H NMR (300 MHz, MeOD) δ 7.30 (s, 1H), 6.40 (s, 1H), 4.00 (q, 2H), 3.80 (s, 3H), 1.35 (t, 3H).

reactant | 4,5-dinitro-2-ethoxy-benzoic acid methyl ester | 320 mg | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-])OCC)=O | C10H10N2O7
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4,5-diamino-2-ethoxy-benzoic Acid methyl ester | 234 mg | COC(C1=C(C=C(C(=C1)N)N)OCC)=O | C10H14N2O3
